US04416683
A solution of 300 mg of 2,6-dimethoxybenzoyl chloride in 20 ml of toluene containing 300 mg of 2-amino-5-[(2-acetoxy-1-acetoxymethyl)-1-methylethyl]-1,3,4-thiadiazole was heated at reflux for eighteen hours. The reaction mixture was cooled to room temperature and diluted with pentane. A solid precipitate which formed was collected by filtration and air dried to give N-[5-(2-acetoxy-1-acetoxymethyl)-1-methylethyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide in 3% yield.

reactant | 2,6-dimethoxybenzoyl chloride | 300 mg | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | 2-amino-5-[(2-acetoxy-1-acetoxymethyl)-1-methylethyl]-1,3,4-thiadiazole | NC=1SC(=NN1)C(C)(C)COC(COC(C)=O)=O | C10H15N3O4S
solvent | toluene | 20 ml, 300 mg | C1(=CC=CC=C1)C | C7H8
solvent | pentane | CCCCC | C5H12
product | 2,6-dimethoxybenzamide | 3% yield | COC1=C(C(=O)N)C(=CC=C1)OC | C9H11NO3
